US06534522B2
B) 4-Benzyl-1-(3-hydroxy-1-methylpropyl)piperidine
To a solution of ethyl 3-(4-benzylpiperidin-1-yl)butyrate (0.60 g, 2.0 mmol) in dry THF (10 mL) was added portionwise LiAlH4 (0.15 g, 3.9 mmol). The resulting heterogeneous mixture was stirred at 25° C. for 2 h then quenched with MeOH. The resulting mixture was diluted with EtOAc (100 mL), washed with NH4Cl (100 mL) and brine (100 mL), dried and was concentrated under reduced pressure. The crude compound was purified by filtration on silica gel using CH2Cl2/MeOH as solvent to afford the title compound as a colorless solid (0.38 g, 80%): mp 74-76° C.; 1H NMR (CDCl3) δ1.00 (d, J=6.6 Hz, 3H), 1.15-1.45 (m, 3H), 1.50-1.65 (m, 1H), 1.65-1.80 (m, 2H), 1.85-2.15 (m, 3H), 2.40-2.60 (m, 3H), 2.82 (bd, J=11.1 Hz, 1H), 2.90-3.10 (m, 2H), 3.80-4.00 (m, 2H), 6.55 (bs, 1H), 7.19 (t, J=7.2 Hz, 2H), 7.24 (d, J=6.9 Hz, 1H), 7.32 (t, J=7.2 Hz, 2H); MS (m/z) 247, 248, 232, 202, 91. Anal. Calcd for C16H25NO: C, 77.68, H 10.18; N, 5.66. Found C, 77.56; H 10.22; N, 5.63.

reactant | ethyl 3-(4-benzylpiperidin-1-yl)butyrate | 2.0 mmol, 0.60 g | C(C1=CC=CC=C1)C1CCN(CC1)C(CC(=O)OCC)C | C18H27NO2
reactant | LiAlH4 | 3.9 mmol, 0.15 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Benzyl-1-(3-hydroxy-1-methylpropyl)piperidine | 0.38 g, 80% | C(C1=CC=CC=C1)C1CCN(CC1)C(CCO)C | C16H25NO
